US07968552B2
Methanesulfonyl chloride was dropwise added under ice-cooling to a mixture of 4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde, triethylamine and ethyl acetate, followed by stirring at 0° C. for 2 hours to obtain 3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl methanesulfonate.

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-[(4′-hydroxy-2′,6′-dimethylbiphenyl-3-yl)methoxy]benzaldehyde | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=O)C=C1)C | C22H20O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl methanesulfonate | CS(=O)(=O)OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)C=O)C | C23H22O5S
